US04243805
A solution of 23.6 g of 2-iodo-4-fluorotoluene in 50 ml of tetrachloromethane was treated with 0.2 g of dibenzoyl peroxide and 19.6 g of N-bromosuccinimide. The mixture was then refluxed for 6 hours and illuminated by a 200 W bulb. After cooling, the spearated succinimide was filtered off and washed with 15 ml tetrachloromethane. The filtrate was evaporated and the residue distilled. There was obtained 24.8 g of 4-fluoro-2-iodobenzyl bromide with a b.p. of 130°-140° C./20 Torr. The product crystallized on standing and a sample recrystallized from petroleum ether; m.p. 71°-73° C.

reactant | 2-iodo-4-fluorotoluene | 23.6 g | IC1=C(C=CC(=C1)F)C | C7H6FI
reactant | N-bromosuccinimide | 19.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 50 ml | ClC(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-fluoro-2-iodobenzyl bromide | 24.8 g | FC1=CC(=C(CBr)C=C1)I | C7H5BrFI
